US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichlorophenyl)-4-isopropylisoxazole
5-(2,4-Dichlorophenyl)-3-hydroxy-4-isopropylisoxazole (0.06 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.04 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.078 g, 86%) as a colorless oil.

reactant | 5-(2,4-Dichlorophenyl)-3-hydroxy-4-isopropylisoxazole | 0.06 g | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NO1)O)C(C)C | C12H11Cl2NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.04 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(2,4-dichlorophenyl)-4-isopropylisoxazole | 0.078 g, 86% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)C)C1=C(C=C(C=C1)Cl)Cl | C19H24Cl2N2O4
